US04654338
To a solution of 8.3 g (0.053 mole) of methyl phenyl sulfoximine in 400 ml of dry tetrahydrofuran at 0° C. was added 1.4M (0.13 mol) butyl lithium in hexane to obtain a clear yellow solution. 15 ml (0.172 mole) of benzonitrile were added and the mixture was stirred for 30 minutes. 100 ml of saturated sodium chloride solution were added and the organic layer was separated, dried over magnesium sulfate and evaporated to an oil. The crude oil was triturated with petrol-ether (40° C.-60° C.) and then was chromatographed over silica. Elution with CH2Cl2, then a 1--1 CH2Cl2 : EtOAc mixture yielded 8.8 g (64% yield) of pure S-(2-aminostyryl)-S-phenyl sulfoximine melting at 95°-96° C. after crystallization from ether.

reactant | methyl phenyl sulfoximine | 0.053 mole, 8.3 g | CS(=O)(=N)C1=CC=CC=C1 | C7H9NOS
reactant | butyl lithium | 0.13 mol, 1.4M | C(CCC)[Li]
reactant | benzonitrile | 0.172 mole, 15 ml | C(C1=CC=CC=C1)#N | C7H5N
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | S-(2-aminostyryl)-S-phenyl sulfoximine | 8.8 g, 64% yield | NC1=C(C=CS(=O)(=N)C2=CC=CC=C2)C=CC=C1 | C14H14N2OS
